data/polar.json
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[cH:4]1[cH:10][cH:5][c:6]2[c:11]([o+:7][c:9](-[c:21]3[cH:14][cH:12][cH:22][cH:13][cH:15]3)[cH:8][cH:20]2)[cH:24]1.[n:1]1([CH3:23])[c:2]([CH3:18])[cH:16][cH:17][c:3]1[CH3:19]>>[N+:1]1([CH3:23])=[C:2]([CH3:18])[CH:16]([CH:20]2[c:6]3[cH:5][cH:10][cH:4][cH:24][c:11]3[O:7][C:9]([c:21]3[cH:14][cH:12][cH:22][cH:13][cH:15]3)=[CH:8]2)[CH:17]=[C:3]1[CH3:19]", "epd": [["LP-/Pi+", [1], [2, 1]], ["Pi-/Sigma+", [16, 2], [16, 20]], ["Pi-/Pi+", [20, 8], [8, 9]], ["Pi-/LP+", [9, 7], [7]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[cH:1]1[cH:8][cH:18][c:12]([N+:10](=[CH2:11])[CH3:27])[cH:19][cH:9]1.[cH:2]1[cH:13][cH:23][c:5]([S:28](=[O:6])(=[O:7])[CH:15]=[C:25]2[CH:3]=[CH:20][C:26](=[N+:22]([O-:16])[O-:17])[CH:21]=[CH:4]2)[cH:24][cH:14]1>>[cH:1]1[cH:8][cH:18][c:12]([N:10]([CH2:11][CH:15]([c:25]2[cH:3][cH:20][c:26]([N+:22](=[O:16])[O-:17])[cH:21][cH:4]2)[S:28]([c:5]2[cH:23][cH:13][cH:2][cH:14][cH:24]2)(=[O:6])=[O:7])[CH3:27])[cH:19][cH:9]1", "epd": [["LP-/Pi+", [16], [22, 16]], ["Pi-/Pi+", [26, 22], [21, 26]], ["Pi-/Pi+", [4, 21], [25, 4]], ["Pi-/Sigma+", [15, 25], [15, 11]], ["Pi-/LP+", [11, 10], [10]]]}
{"reaction_name": "Dearomatizing addition to an azaarenium / acridinium ion", "rsmi": "[cH:1]1[c:26]([CH:12]=[C:15]2[S:9][c:22]3[cH:16][cH:10][cH:13][cH:8][c:19]3[N:32]2[CH3:25])[cH:2][cH:30][cH:31][cH:29]1.[n+:3]1([CH3:14])[c:4]2[cH:17][cH:23][cH:20][cH:6][c:27]2[cH:11][c:28]2[c:5]1[cH:18][cH:24][cH:21][cH:7]2>>[cH:1]1[c:26]([CH:12]([CH:11]2[c:27]3[c:4]([cH:17][cH:23][cH:20][cH:6]3)[N:3]([CH3:14])[c:5]3[cH:18][cH:24][cH:21][cH:7][c:28]32)[c:15]2[s:9][c:22]3[cH:16][cH:10][cH:13][cH:8][c:19]3[n+:32]2[CH3:25])[cH:2][cH:30][cH:31][cH:29]1", "epd": [["LP-/Pi+", [32], [15, 32]], ["Pi-/Sigma+", [12, 15], [12, 11]], ["Pi-/Pi+", [11, 27], [27, 4]], ["Pi-/LP+", [4, 3], [3]]]}
{"reaction_name": "Addition to carbon dioxide", "rsmi": "[C:3](=[O:4])=[O:5].[CH3:1][Mg:2][Br:6]>>[Br-:6].[CH3:1][C:3](=[O:4])[O-:5].[Mg+2:2]", "epd": [["Sigma-/Sigma+", [1, 2], [1, 3]], ["Pi-/LP+", [3, 4], [4]], ["LP-/Pi+", [4], [3, 4]], ["Pi-/LP+", [3, 5], [5]], ["Sigma-/LP+", [2, 6], [6]]]}
{"reaction_name": "Fischer glycosylation", "rsmi": "[CH2:1]1[CH2:3][O:5][CH:6]([OH:4])[CH2:9][CH2:8]1.[O:2]([CH3:7])[H:10]>>[CH2:1]1[CH2:3][O:5][CH:6]([O:2][CH3:7])[CH2:9][CH2:8]1.[OH:4][H:10]", "epd": [["LP-/Sigma+", [2], [2, 6]], ["Sigma-/LP+", [4, 6], [4]], ["LP-/Sigma+", [4], [4, 10]], ["Sigma-/LP+", [2, 10], [2]]]}
{"reaction_name": "Prins cascade", "rsmi": "[CH2:1]=[CH:2][CH2:3][CH2:4][O:5][H:9].[CH3:6][C:7]([H:10])=[O:8].[H+:11]>>[O:5]1[CH2:4][CH2:3][CH:2]([CH2+:1])[C:7]([H:10])([CH3:6])1.[O:8]([H:9])[H:11]", "epd": [["LP-/Sigma+", [8], [8, 11]], ["Pi-/Sigma+", [1, 2], [2, 7]], ["Pi-/LP+", [7, 8], [8]], ["LP-/Sigma+", [5], [5, 7]], ["Sigma-/Sigma+", [7, 8], [8, 9]], ["Sigma-/LP+", [5, 9], [5]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:4]1[c:12]([CH+:25][c:13]2[cH:5][c:16]([F:20])[cH:24][c:17]([F:21])[cH:6]2)[cH:7][c:14]([F:18])[cH:23][c:15]1[F:19].[n:1]1([CH3:22])[c:2]([CH3:10])[cH:8][cH:9][c:3]1[CH3:11]>>[N+:1]1([CH3:22])=[C:2]([CH3:10])[CH:8]([CH:25]([c:12]2[cH:4][c:15]([F:19])[cH:23][c:14]([F:18])[cH:7]2)[c:13]2[cH:5][c:16]([F:20])[cH:24][c:17]([F:21])[cH:6]2)[CH:9]=[C:3]1[CH3:11]", "epd": [["LP-/Pi+", [1], [2, 1]], ["Pi-/Sigma+", [8, 2], [8, 25]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH3:2][C:7](=[C:5]=[N-:13])[c:14]1[cH:15][cH:22][cH:24][cH:23][cH:16]1.[O:1]([S:6][C:21]([F:10])([F:11])[F:12])[C:8]([CH3:19])([CH3:20])[c:25]1[cH:3][cH:17][cH:9][cH:18][cH:4]1>>[CH3:2][C:7]([C:5]#[N:13])([S:6][C:21]([F:10])([F:11])[F:12])[c:14]1[cH:15][cH:22][cH:24][cH:23][cH:16]1.[O-:1][C:8]([CH3:19])([CH3:20])[c:25]1[cH:3][cH:17][cH:9][cH:18][cH:4]1", "epd": [["LP-/Pi+", [13], [5, 13]], ["Pi-/Sigma+", [7, 5], [7, 6]], ["Sigma-/LP+", [6, 1], [1]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[C:5]1(=[CH2:15])[N:29]([CH3:7])[c:26]2[cH:13][cH:19][cH:20][cH:14][c:25]2[N:30]1[CH3:8].[O:1]=[S:17](=[O:2])([N:16]([S:12][C:6]([F:9])([F:10])[F:11])[S:18](=[O:3])(=[O:4])[c:36]1[cH:23][cH:33][cH:28][cH:34][cH:24]1)[c:35]1[cH:21][cH:31][cH:27][cH:32][cH:22]1>>[O:1]=[S:17](=[O:2])([N-:16][S:18](=[O:3])(=[O:4])[c:36]1[cH:23][cH:33][cH:28][cH:34][cH:24]1)[c:35]1[cH:21][cH:31][cH:27][cH:32][cH:22]1.[c:5]1([CH2:15][S:12][C:6]([F:9])([F:10])[F:11])[n+:29]([CH3:7])[c:26]2[cH:13][cH:19][cH:20][cH:14][c:25]2[n:30]1[CH3:8]", "epd": [["LP-/Pi+", [29], [5, 29]], ["Pi-/Sigma+", [15, 5], [15, 12]], ["Sigma-/LP+", [12, 16], [16]]]}
{"reaction_name": "N-Acyliminium rearrangement", "rsmi": "[O:1]=[C:3]([N:2]([CH3:5])[CH2+:6])[CH3:4]>>[O:1]=[C:3]([N+:2]([CH3:5])=[CH2:6])[CH3:4]", "epd": [["LP-/Pi+", [2], [2, 6]]]}
